US07396939B2
Step 3: 2-Fluoro-2-methyl-4-(methylsulfonyl)benzoic acid
53.8 g of crude methyl 2-fluoro-2-methyl-4-(methylsulfonyl)benzoate were initially charged in 500 ml of THF, and 10.5 g NaOH dissolved in 500 ml of H2O were added. The mixture was stirred at RT for 3 h, and most of the THF was then removed under reduced pressure. The residue was washed with diethyl ether and the aqueous phase was then acidified with 10% strength H2SO4. The precipitated crystals were filtered off with suction, washed with cold water and dried. This gave colorless crystals.

reactant | methyl 2-fluoro-2-methyl-4-(methylsulfonyl)benzoate | 53.8 g | FC1(C(C(=O)OC)C=CC(=C1)S(=O)(=O)C)C | C10H13FO4S
reactant | NaOH | 10.5 g | [OH-].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | H2O | 500 ml | O | H2O
product | 2-Fluoro-2-methyl-4-(methylsulfonyl)benzoic acid | FC1(C(C(=O)O)C=CC(=C1)S(=O)(=O)C)C | C9H11FO4S
